US09023865B2
In a manner similar to that described in Scheme 6 and Example 30, 6-chloro-3-cyclobutyl-1-trityl-1H-pyrazolo[4,3-c]pyridine was reacted with 1-butylurea, (Xantphos, Pd(OAc)2, Cs2CO3, dioxane, 80° C., overnight) and then deprotected with TFA to provide 1-butyl-3-(3-cyclobutyl-1H-pyrazolo[4,3-c]pyridin-6-yl)urea. MS ESI calc'd. for C15H21N5O[M+1]+ 288, found 288.

reactant | 6-chloro-3-cyclobutyl-1-trityl-1H-pyrazolo[4,3-c]pyridine | ClC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C2CCC2 | C29H24ClN3
reactant | 1-butylurea | C(CCC)NC(=O)N | C5H12N2O
reactant | Xantphos | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Cs2CO3 | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
catalyst | Pd(OAc)2 | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-butyl-3-(3-cyclobutyl-1H-pyrazolo[4,3-c]pyridin-6-yl)urea | C(CCC)NC(=O)NC1=CC2=C(C=N1)C(=NN2)C2CCC2 | C15H21N5O
